US07754746B2
3-{3-[5-(4-Acetyl-phenyl)-4-methyl-thiazol-2-yl]-ureido}-N-tert-butyl-propionamide
Imidazole-1-carboxylic acid [5-(4-acetyl-phenyl)-4-methyl-thiazol-2-yl]-amide (0.455 g, 1.40 mmol) is dissolved in dimethylformamide (10 ml) and treated with triethylamine (0.21 ml, 1.47 mmol) and 3-Amino-N-tert-butyl-propionamide (0.266 g, 1.47 mmol). The reaction mixture is stirred for 1.5 hours, then water (200 ml) added and the resulting suspension filtered. The solid is washed with water and dried under high vacuum to afford the titled product as a pale yellow solid. [M+H] 403.34

reactant | Imidazole-1-carboxylic acid [5-(4-acetyl-phenyl)-4-methyl-thiazol-2-yl]-amide | 1.40 mmol, 0.455 g | C(C)(=O)C1=CC=C(C=C1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C | C16H14N4O2S
reactant | triethylamine | 1.47 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | 3-Amino-N-tert-butyl-propionamide | 1.47 mmol, 0.266 g | NCCC(=O)NC(C)(C)C | C7H16N2O
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-{3-[5-(4-Acetyl-phenyl)-4-methyl-thiazol-2-yl]-ureido}-N-tert-butyl-propionamide | C(C)(=O)C1=CC=C(C=C1)C1=C(N=C(S1)NC(NCCC(=O)NC(C)(C)C)=O)C | C20H26N4O3S
